US07491716B2
(Imidazo[1,2-a]pyridin-3-yl)oxoacetic acid methyl ester
Add oxalyl chloride (2.13g, 1.46 ml, 16.8 mmol) to a solution of imidazo[1,2-a]pyridine (1.0 g, 8.47 mmol) in toluene (75 ml). Heat the mixture at reflux for 15 hours. Cool the reaction and gently add methanol. Concentrate the resulting mixture under reduced pressure and partition between hot ethyl acetate and saturated aqueous sodium bicarbonate. Wash organic phase with saturated aqueous sodium chloride, dry over magnesium sulfate, and concentrate under reduced pressure. Triturate in ethyl acetate to give the title compound as an off-white solid (0.75 gm).

reactant | oxalyl chloride | 16.8 mmol, 1.46 ml, 2.13g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | imidazo[1,2-a]pyridine | 8.47 mmol, 1.0 g | N=1C=CN2C1C=CC=C2 | C7H6N2
reactant | methanol | CO | CH4O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | (Imidazo[1,2-a]pyridin-3-yl)oxoacetic acid methyl ester | 0.75 gm | COC(C(=O)C1=CN=C2N1C=CC=C2)=O | C10H8N2O3
